US07220862B2
(±)-3-(1H-Indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid
A solution of 5-(2-methoxycarbonyl-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-ethyl)-indazole-1-carboxylic acid tert-butyl ester (168 mg, 0.29 mmol) was dissolved in tetrahydrofuran (5 mL) in methanol (5 mL) was cooled to 0° C. A solution of lithium hydroxide monohydrate (49 mg, 2.04 mmol) in water (5 mL) was added. The reaction mixture was stirred at 0° C. for 6 h and then placed in the freezer for a further 16 h. The solvents were removed in vacuo and the residue dissolved in water (15 mL). The pH of the aqueous solution was adjusted to ca. 1 with 1N hydrochloric acid. The resulting white solid precipitated was collected by filtration. The solid was dried under vacuum to give the title compound (108 mg, 80%). 1H-NMR (DMSO-d6, 300 MHz) δ 12.94 (bs, 1H), 9.19 (s, 1H), 8.01 (s, 1H), 7.61 (s, 1H), 7.46 (d, J=8.4 Hz, 1H), 7.28 (dd, J=8.5, 1.5 Hz, 1H), 7.13–7.06 (m, 2H), 6.86 (t, J=7.0 Hz, 1H), 6.76–6.72 (m, 2H), 4.32–4.24 (m, 2H), 4.09–4.02 (m, 4H), 3.17–2.97 (m, 2H), 2.72–2.59 (m, 2H), 1.57–1.35 (m, 4H). IR (KBr, cm−1) 3424, 2963, 2930, 1660, 1628, 1505, 1474, 1446, 753. Mass spec.: 463 (MH)+.

reactant | 5-(2-methoxycarbonyl-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-ethyl)-indazole-1-carboxylic acid tert-butyl ester | 0.29 mmol, 168 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)CC(NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C(=O)OC | C30H36N6O6
reactant | lithium hydroxide monohydrate | 2.04 mmol, 49 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | (±)-3-(1H-Indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 108 mg, 80% | N1N=CC2=CC(=CC=C12)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C24H26N6O4
